US08067408B2
236(b) A mixture of 1,1-dimethylethyl 4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)-amino]methyl}-5′-(methyloxy)-3-biphenylyl]methyl}hexahydro-1H-1,4-diazepine-1-carboxylate (130 mg, 0.19 mmol) in 25% TFA in DCM (3 mL) was stirred at RT for 2 h. It was purified by preparative hplc (NH2OH condition), eluting with 10 to 90% CH3CN in water. The product-containing fractions were dried under GeneVac to give a solid. It was purified using a Gilson HPLC (with 0.1% TFA condition) and eluting with 10 to 90% CH3CN in water. Product-containing fractions were combined and then converted to the free base with saturated NaHCO3. The organic layer was dried over sodium sulfate, filtered and then concentrated to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(hexahydro-1H-1,4-diazepin-1-ylmethyl)-5-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide as a white solid (45 mg, 31%). LC-MS m/z 759 (M+H)+.

reactant | 1,1-dimethylethyl 4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)-amino]methyl}-5′-(methyloxy)-3-biphenylyl]methyl}hexahydro-1H-1,4-diazepine-1-carboxylate | 0.19 mmol, 130 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)CN2CCN(CCC2)C(=O)OC(C)(C)C)CC | C49H62N8O6
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(hexahydro-1H-1,4-diazepin-1-ylmethyl)-5-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 45 mg, 31% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)CN2CCNCCC2)CC | C44H54N8O4
